US07786132B2
(iii) 5-(2-Chloro-5-fluoropyrimidin-4-yl)-N-(4-fluorophenyl)-N-methylthiazol-2-amine
8.4 mL (13 mmol) of a 1.6 M solution of tBuLi in heptane was added to a rapidly stirred suspension of 2.5 g (12 mmol) of N-(4-fluorophenyl)-N-methylthiazol-2-amine in 50 mL of THF at −78° C. The solution was stirred for 1 min at −78° C. before 1.3 mL (13 mmol) of 2-chloro-5-fluoropyrimidine was added. The reaction solution was stirred for 1 h at −78° C., then quenched by addition of 2 mL of MeOH. Solid 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (5.5 g, 24 mmol) was added and the reaction solution was stirred for 1 h and then 25 mL of 10% (w/v) aqueous NaOH was added. The reaction solution was warmed to rt and stirred 2 h, then poured into 500 mL of EtOAc and 200 mL of water, separated and the organic layer washed twice with saturated aqueous NaHCO3, once with brine, dried over MgSO4, filtered and concentrated. The residue was purified by C-18 prep MPLC to give the title compound. MS (M+H)+ 339.

reactant | tBuLi | [Li]C(C)(C)C
reactant | N-(4-fluorophenyl)-N-methylthiazol-2-amine | 12 mmol, 2.5 g | FC1=CC=C(C=C1)N(C=1SC=CN1)C | C10H9FN2S
reactant | 2-chloro-5-fluoropyrimidine | 13 mmol, 1.3 mL | ClC1=NC=C(C=N1)F | C4H2ClFN2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 24 mmol, 5.5 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | NaOH | [OH-].[Na+]
solvent | heptane | CCCCCCC | C7H16
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 5-(2-Chloro-5-fluoropyrimidin-4-yl)-N-(4-fluorophenyl)-N-methylthiazol-2-amine | ClC1=NC=C(C(=N1)C1=CN=C(S1)N(C)C1=CC=C(C=C1)F)F | C14H9ClF2N4S
